US07875640B2
3-isobutyl-4,4,6,6-tetramethyl-4,6-dihydrofuro[3,4-d]thiazol-2(3H)-imine
To a solution of 2,2,5,5-tetramethyldihydrofuran-3(2H)-one (2.0 g, 14.1 mmol, Aldrich) in acetonitrile (10 mL) were added molecular sieves (2.0 g) and 2-methylpropan-1-amine (1.0 mL, 12.8 mmol, Aldrich). The reaction mixture was stirred at 60° C. for 48 hr and then filtered through celite. To the filtrate were added potassium thiocyanate (1.65 g, 17.0 mmol, Aldrich). The reaction mixture was stirred at 60° C. until the solids were dissolved and then iodine (6.5 g, 25.6 mmol, EMD chemicals) was added. The reaction mixture was stirred 60° C. for 48 hr, cooled, concentrated and dissolved in ethyl acetate (15 mL). The solution was washed with sodium metabisulfite 20% (35 mL) by mixing the layers for 30 min. The organic layer was washed twice with HCl 1N (35 mL). The aqueous layers (sodium metabisulfite and HCl) were combined and the pH was adjusted to pH 9 by adding NH4OH and then extracted with ethyl acetate (4×40 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated to obtain the crude product (0.75 g) of the title compound. MS (ESI+) m/z 255 (M+H)+

reactant | 2,2,5,5-tetramethyldihydrofuran-3(2H)-one | 14.1 mmol, 2.0 g | CC1(OC(CC1=O)(C)C)C | C8H14O2
reactant | 2-methylpropan-1-amine | 12.8 mmol, 1.0 mL | CC(CN)C | C4H11N
reactant | potassium thiocyanate | 17.0 mmol, 1.65 g | [S-]C#N.[K+]
reactant | iodine | 25.6 mmol, 6.5 g | II | I2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-isobutyl-4,4,6,6-tetramethyl-4,6-dihydrofuro[3,4-d]thiazol-2(3H)-imine | 0.75 g | C(C(C)C)N1C(SC2=C1C(OC2(C)C)(C)C)=N | C13H22N2OS
